US04547539
Dimethyl 2-(3,5-di-tert-butyl-4-hydroxyphenylthio)succinate
The procedure of Example 1 is repeated using 23.84 grams of 2,6-di-tert-butyl-4-mercaptophenol, 14.41 grams of dimethyl maleate, and 0.5 grams of triethylamine. The product is recrystallized from heptane to give 30.44 grams (80% yield) of white solid, m.p. 94°-96° C.

reactant | 2,6-di-tert-butyl-4-mercaptophenol | 23.84 grams | C(C)(C)(C)C1=C(C(=CC(=C1)S)C(C)(C)C)O | C14H22OS
reactant | dimethyl maleate | 14.41 grams | C(\C=C/C(=O)OC)(=O)OC | C6H8O4
catalyst | triethylamine | 0.5 grams | C(C)N(CC)CC | C6H15N
product | Dimethyl 2-(3,5-di-tert-butyl-4-hydroxyphenylthio)succinate | 30.44 grams, 80% yield | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)SC(C(=O)OC)CC(=O)OC | C20H30O5S
